US07678787B2
10-[(2′-METHOXY-1,1′-BIPHENYL-4-YL)CARBONYL]-N-(2-PYRIDIN-3-YL-2-PYRROLIDIN-1-YLETHYL)-10,11-DIHYDRO-5H-PYRROLO[2,1-C][1,4]BENZODIAZEPINE-3-CARBOXAMIDE
The title compound was prepared according to the procedure Example 6, Step D, from 2,2,2-trichloro-1-{10-[(2′-methoxy-1,1′-biphenyl-4-yl)carbonyl]-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-3-yl}ethanone (1.21 g, 2.25 mmol), 2-(3-pyridyl)-2-pyrrolidinylethyl amine trihydrochloride (0.450 g, 1.5 mmol), triethylamine (5 equivalents), dimethylsulfoxide (0.540 mL) and acetonitrile (28 mL). The crude material was flash chromatographed over silica gel Merck-60 using a gradient of methanol (1-5%) in dichloromethane containing 0.2% ammonium hydroxide, to provide a brown foam. The material was further purified by preparative HPLC (40:60 acetonitrile:water containing 0.1% formic acid; Primesphere 10 C18, 250×50 mm column; flow 90 mL/min). The solution was brought to pH 8 with concentrated ammonium hydroxide prior to concentration to small volume in vacuo. The residue was redissolved in dichloromethane, dried over anhydrous potassium carbonate and evaporated to dryness to provide an off-white foam (0.560 g). This material was sonicated with hexane (containing a few drops of ethyl acetate). The resulting off-white powder was collected and dried (0.442 g).

reactant | 2,2,2-trichloro-1-{10-[(2′-methoxy-1,1′-biphenyl-4-yl)carbonyl]-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-3-yl}ethanone | 2.25 mmol, 1.21 g | ClC(C(=O)C1=CC=C2CN(C3=C(CN21)C=CC=C3)C(=O)C3=CC=C(C=C3)C3=C(C=CC=C3)OC)(Cl)Cl | C28H21Cl3N2O3
reactant | 2-(3-pyridyl)-2-pyrrolidinylethyl amine trihydrochloride | 1.5 mmol, 0.450 g | Cl.Cl.Cl.N1=CC(=CC=C1)C(CN)N1CCCC1
reactant | triethylamine | 5 equivalents | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfoxide | 0.540 mL | CS(=O)C | C2H6OS
solvent | acetonitrile | 28 mL | C(C)#N | C2H3N
product | 10-[(2′-METHOXY-1,1′-BIPHENYL-4-YL)CARBONYL]-N-(2-PYRIDIN-3-YL-2-PYRROLIDIN-1-YLETHYL)-10,11-DIHYDRO-5H-PYRROLO[2,1-C][1,4]BENZODIAZEPINE-3-CARBOXAMIDE | COC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C(=CC2)C(=O)NCC(N2CCCC2)C=2C=NC=CC2 | C38H37N5O3
